US05013760
N,N'-Bis-(1,2,3,4-tetrahydro-5,6-dimethoxy-2-naphthyl)hexane -1,6-diamine dihydrochloride
1,2,3,4-Tetrahydro-5,6-dimethoxy-2-naphthalenamine hydrochloride (4.87 g) in acetonitrile (100 ml) was added slowly to a stirred suspension of potassium carbonate (3.0 g) in a refluxing solution of 1,6-dibromohexane (2.44 g) in acetonitrile (100 ml) over a period of 1 hour. When the addition was complete, reflux was continued for 24 hours, the solution filtered to remove inorganic salts, and the filtrate evaporated in vacuo to give an oil. Chromatography on silica, eluting with chloroform: methanol 95:5 , gave, following trituration with ethereal hydrogen chloride, the title compound 1.15 g (20%), mp 275° (decomp)

reactant | 1,2,3,4-Tetrahydro-5,6-dimethoxy-2-naphthalenamine hydrochloride | 4.87 g | Cl.COC1=C2CCC(CC2=CC=C1OC)N
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,6-dibromohexane | 2.44 g | BrCCCCCCBr | C6H12Br2
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N,N'-Bis-(1,2,3,4-tetrahydro-5,6-dimethoxy-2-naphthyl)hexane -1,6-diamine dihydrochloride | 1.15 g, 20% | Cl.Cl.COC1=C2CCC(CC2=CC=C1OC)NCCCCCCNC1CC2=CC=C(C(=C2CC1)OC)OC | InChI=1S/C30H44N2O4.2ClH/c1-33-27-15-9-21-19-23(11-13-25(21)29(27)35-3)31-17-7-5-6-8-18-32-24-12-14-26-22(20-24)10-16-28(34-2)30(26)36-4;;/h9-10,15-16,23-24,31-32H,5-8,11-14,17-20H2,1-4H3;2*1H
